US06677368B2
3-[1-[3-((2R,4R)-2-Cyclopropylaminomethyl-4-hydroxy-pyrrolidine-1-carbonyl)-5-methyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one
To a mixture of 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.28 mmol), EDC (64 mg, 1.2 eq.), HOBt (45 mg, 1.2 eq.) in DMF (3 mL) was added TEA (0.098 mL) and (3R,5R)-5-cyclopropylaminomethyl-pyrrolidin-3-ol. The mixture was stirred at rt for overnight. After the usual work up, 65 mg of the titled compound was obtained as a yellow solid.

reactant | 2-[4-(3-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 0.28 mmol, 100 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | EDC | 64 mg, 1.2 eq.
reactant | HOBt | 45 mg, 1.2 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (3R,5R)-5-cyclopropylaminomethyl-pyrrolidin-3-ol | C1(CC1)NC[C@H]1C[C@H](CN1)O | C8H16N2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-[1-[3-((2R,4R)-2-Cyclopropylaminomethyl-4-hydroxy-pyrrolidine-1-carbonyl)-5-methyl-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-4-(3-fluoro-phenyl)-1,3-dihydro-indol-2-one | 65 mg | C1(CC1)NC[C@@H]1N(C[C@@H](C1)O)C(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O | C29H29FN4O3
